US08466181B2
6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(1-hydroxy-2-methylpropan-2-yl)nicotinamide
As described for example 43c, 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (74 mg, 0.203 mmol) was converted, using 2-amino-2-methylpropan-1-ol instead of isopropylamine, to the title compound (56 mg, 63%) which was obtained as a white foam after purification by chromatography (reverse phase HPLC then silica, ethyl acetate). MS: m/e=436.2 [M+H]+.

reactant | 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.203 mmol, 74 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 2-amino-2-methylpropan-1-ol | NC(CO)(C)C | C4H11NO
product | 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(1-hydroxy-2-methylpropan-2-yl)nicotinamide | 56 mg, 63% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC(CO)(C)C)C=C1)C | C22H22FN7O2
